US04863947
To 2.0 g of N-(4-trifluoromethoxyphenyl)-3-(4-chlorophenyl)-4-formyl-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide (5 mmole), was added 4 g of triphenylphosphine (15 mmole), 3 g of sodium chlorodifluoroacetate (20 mmole) and 15 ml of diglyme. The mixture was heated slowly to reflux over 1 hour. Gas evolved. After refluxing for 20 minutes the mixture was colled, partitioned between ether and water, dried, rotovaped and chromatographed (ether/hexane) to yield 0.5 g of N-(4-trifluoromethoxyphenyl)-3-(4-chlorophenyl)-4-(2,2-difluorovinyl)-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide mp 142°-8° C. NMR data was consistent with the structure.

reactant | N-(4-trifluoromethoxyphenyl)-3-(4-chlorophenyl)-4-formyl-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 5 mmole, 2.0 g | FC(OC1=CC=C(C=C1)NC(=O)N1N=C(C(C1)(C)C=O)C1=CC=C(C=C1)Cl)(F)F | C19H15ClF3N3O3
reactant | triphenylphosphine | 15 mmole, 4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium chlorodifluoroacetate | 20 mmole, 3 g | ClC(C(=O)[O-])(F)F.[Na+]
solvent | diglyme | 15 ml | COCCOCCOC | C6H14O3
product | N-(4-trifluoromethoxyphenyl)-3-(4-chlorophenyl)-4-(2,2-difluorovinyl)-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 0.5 g | FC(OC1=CC=C(C=C1)NC(=O)N1N=C(C(C1)(C)C=C(F)F)C1=CC=C(C=C1)Cl)(F)F | C20H15ClF5N3O2
